US07115607B2
Methyl 2-(4-[(2R)-2-amino-3-(4-chlorophenyl)propanoyl]piperazinyl)benzoate
To a 25 mL round-bottomed flask equipped with magnetic stirring was added methyl 2-(4-{(2R)-2-[(tert-butoxy)carbonylamino]-3-(4-chlorophenyl) propanoyl}-piperazinyl)benzoate (3.2 g, 6.4 mmol). A satd soln of HCl in EtOAc (15 mL) was added, and the mixture was stirred at RT for 1 h. The title compound, as the hydrochloride salt, was isolated by filtration as a white solid (2.6 g). MS (ESI, pos. ion) m/z: 402 (M+H). Calc'd for C21H24ClN3O3: 401.15.

reactant | methyl 2-(4-{(2R)-2-[(tert-butoxy)carbonylamino]-3-(4-chlorophenyl) propanoyl}-piperazinyl)benzoate | 6.4 mmol, 3.2 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1CCN(CC1)C1=C(C(=O)OC)C=CC=C1)CC1=CC=C(C=C1)Cl | C26H32ClN3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | Methyl 2-(4-[(2R)-2-amino-3-(4-chlorophenyl)propanoyl]piperazinyl)benzoate | N[C@@H](C(=O)N1CCN(CC1)C1=C(C(=O)OC)C=CC=C1)CC1=CC=C(C=C1)Cl | C21H24ClN3O3
